US06387896B1
Step 4 Preparation of Benzyl 7-{[(benzyloxy)carbonyl]amino}-3-methyl-2,3-dihydro-4H-1,4-benzoxazine-4-carboxylate
2-[4-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-3-(2-oxopropoxy)phenyl]-1H-isoindole-1,3(2H)-dione (2.0 g, 4.5 mmol) is stirred as a suspension in dry THF. Hydrazine monohydrate (15 mL, 0.31 mol) is added and the mixture heated at reflux for 2 hours. The THF (top layer) is decanted and retained. The remaining mixture is extracted with CH2Cl2 (2×50 mL) and the organics combined. The THF/CH2Cl2 solution is dried (Na2SO4), filtered and solvent evaporated. The residue is chromatographed on silica gel using 0-2% MeOH/CH2Cl2 eluant to obtain a yellow solid. The solid is dissolved in MeOH (20 mL) and Sodium Borohydride (0.22 g, 5.7 mmol) added at 0° C. The mixture is allowed to warm to room temperature and stirred 5 hours. Solvent is evaporated to obtain a purple solid. This material is added to dry THF (30 mL) and NaHCO3 (0.46 g, 5.3 mmol) added. Benzyl chloroformate (0.76 mL, 5.3 mmol) is added dropwise and the mixture allowed to warm to room temperature while stirring overnight. The mixture is partitioned between water and EtOAc. The organic layer is washed with water then brine and dried (Na2SO4). Solvent is evaporated and the residue chromatographed on silica gel using 25% EtOAc/Heptane eluant. The oily product is triturated with heptane to give an off-white solid (51%); mp104-106° C. MS (EI) m/z 432 (M+), Anal. Calcd for C25H24N2O5: C, 69.43; H, 5.59; N, 6.48. Found: C, 69.21; H, 5.74; N, 6.49.

reactant | 2-[4-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-3-(2-oxopropoxy)phenyl]-1H-isoindole-1,3(2H)-dione | 4.5 mmol, 2.0 g | O=C1N(C(C2=CC=CC=C12)=O)C1=C(C=C(C=C1)N1C(C2=CC=CC=C2C1=O)=O)OCC(C)=O | C25H16N2O6
reactant | Hydrazine monohydrate | 0.31 mol, 15 mL | O.NN
reactant | Sodium Borohydride | 5.7 mmol, 0.22 g | [BH4-].[Na+]
reactant | NaHCO3 | 5.3 mmol, 0.46 g | C(=O)(O)[O-].[Na+]
reactant | Benzyl chloroformate | 5.3 mmol, 0.76 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | THF | C1CCOC1 | C4H8O
solvent | MeOH | 20 mL | CO | CH4O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | Benzyl 7-{[(benzyloxy)carbonyl]amino}-3-methyl-2,3-dihydro-4H-1,4-benzoxazine-4-carboxylate | 51% | C(C1=CC=CC=C1)OC(=O)NC1=CC2=C(N(C(CO2)C)C(=O)OCC2=CC=CC=C2)C=C1 | C25H24N2O5
